US05482936
Palladium hydroxide on carbon (0.35 g) was added to a solution of N,N-bis(phenylmethyl)-8,9,10,11 tetrahydropyrido[1',2':1,2]imidazo[4,5-c]quinolin-4-amine (0.38 g, 0.9 mmole) in formic acid (about 15 mL). The reaction mixture was heated at reflux for 3 days then diluted with methylene chloride and made basic (about pH 9) with 10% sodium hydroxide. The methylene chloride layer was separated, dried over magnesium sulfate and then concentrated under vacuum to provide a white solid. The material was purified by column chromatography (silica gel eluting with 4-10% methanol in methylene chloride v/v) to provide a solid. The solid was suspended in methylene chloride (20 mL) then isolated by filtration and dried to provide 70 mg of 8,9,10,11 tetrahydropyrido[1',2':1,2]imidazo[4,5-c]quinolin-4-amine as a solid, m.p. 275°-278° C. Calculated for C14H14N4 +0.2 CH2Cl2 : %C, 66.81; %H, 5.69; %N, 21.95; Found: %C, 67.06; %H, 5.60; %N, 22.18.

reactant | N,N-bis(phenylmethyl)-8,9,10,11 tetrahydropyrido[1',2':1,2]imidazo[4,5-c]quinolin-4-amine | 0.9 mmole, 0.38 g | C1(=CC=CC=C1)CN(C=1C=CC=C2C3=C(C=NC12)N=C1N3CCCC1)CC1=CC=CC=C1 | C28H26N4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | formic acid | about 15 mL | C(=O)O | CH2O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | Palladium hydroxide on carbon | 0.35 g | [OH-].[OH-].[Pd+2]
product | 8,9,10,11 tetrahydropyrido[1',2':1,2]imidazo[4,5-c]quinolin-4-amine | 70 mg | C1=C2C3=C(C=NC2=C(C=C1)N)N=C1N3CCCC1 | C14H14N4
